US06451794B1
(viii) 6-Difluoromethoxy-2-(3-fluoro-phenyl)-3-(4-methanesulfonyl-phenyl)-pyrazolo[1,5-b]pyridazine
To a stirred solution of 3-bromo-6-difluoromethoxy-2-(3-fluoro-phenyl)-pyrazolo[1,5-b]pyridazine (286 mg) in DMF(20 ml) was added 2N aq sodium carbonate (10 ml). To this mixture was added 4-methanesulfonyl-phenylboronic acid (180 mg) and tetrakis triphenylphosphine palladium(0) (34 mg). The resulting mixture was stirred and heated to reflux for 18 hours. The cooled reaction mixture was diluted with ethyl acetate (300 ml) and the organic solution washed with water (10×30 ml) and brine (30 ml), dried (Na2SO4) and evaporated to give a gum which was purified by flash column chromatography with chloroform:ethyl acetate (50:1 to 5:1) as eluant. Combination of appropriate fractions and concentration gave the title compound as an off-white solid (132 mg, 37%).

reactant | 3-bromo-6-difluoromethoxy-2-(3-fluoro-phenyl)-pyrazolo[1,5-b]pyridazine | 286 mg | BrC=1C(=NN2N=C(C=CC21)OC(F)F)C2=CC(=CC=C2)F | C13H7BrF3N3O
reactant | sodium carbonate | 2N, 10 ml | C([O-])([O-])=O.[Na+].[Na+]
reactant | 4-methanesulfonyl-phenylboronic acid | 180 mg | CS(=O)(=O)C1=CC=C(C=C1)B(O)O | C7H9BO4S
solvent | DMF | 20 ml | CN(C)C=O | C3H7NO
solvent | ethyl acetate | 300 ml | C(C)(=O)OCC | C4H8O2
product | 6-Difluoromethoxy-2-(3-fluoro-phenyl)-3-(4-methanesulfonyl-phenyl)-pyrazolo[1,5-b]pyridazine | 132 mg, 37% | FC(OC=1C=CC=2N(N1)N=C(C2C2=CC=C(C=C2)S(=O)(=O)C)C2=CC(=CC=C2)F)F | C20H14F3N3O3S
